US05123951
4-Bromo-2-methylaniline (2.09 grams, 0.01 mole) and methyl 1-chlorocarbonyl-2,2,3,3-tetramethylcyclopropanecarboxylate (2.45 grams, 0.01 mole), prepared in Part B, were reacted in the presence of 1.13 grams (0.01 mole) of triethylamine in 70 milliliters of benzene solution in a manner similar to that described in Example I to give 2.13 grams (0.006 mole) of methyl 1-(4-bromo-2-methylphenylamino-carbonyl)-2,2,3,3-tetramethylcyclopropaneca rboxylate.

reactant | 4-Bromo-2-methylaniline | 0.01 mole, 2.09 grams | BrC1=CC(=C(N)C=C1)C | C7H8BrN
reactant | methyl 1-chlorocarbonyl-2,2,3,3-tetramethylcyclopropanecarboxylate | 0.01 mole, 2.45 grams | ClC(=O)C1(C(C1(C)C)(C)C)C(=O)OC | C10H15ClO3
reactant | triethylamine | 0.01 mole, 1.13 grams | C(C)N(CC)CC | C6H15N
solvent | benzene | 70 milliliters | C1=CC=CC=C1 | C6H6
product | methyl 1-(4-bromo-2-methylphenylamino-carbonyl)-2,2,3,3-tetramethylcyclopropaneca rboxylate | 0.006 mole, 2.13 grams | BrC1=CC(=C(C=C1)NC(=O)C1(C(C1(C)C)(C)C)C(=O)OC)C | C17H22BrNO3
